US08048897B2
(2) Synthesis of 2-(4-Methoxybenzyl)-5-trifluoromethyl-thiophen-3-ol
To a solution of (3-benzyloxy-2-(4-methoxybenzyl)-5-trifluoromethylthiophene (170.5 mg, 0.45 mmol) in dichloromethane (4.5 mL), a solution of boron tribromide-dimethylsulfide complex in dichloromethane (0.47 mL, 0.47 mmol) was added at −78° C. in a nitrogen stream. The reaction mixture was stirred at the same temperature for five minutes and then at 0° C. for 11 hours. To the reaction mixture, water was added and the resulting mixture was extracted with methylene chloride. The organic layer was washed with a saturated sodium hydrogencarbonate aqueous solution and a saturated sodium chloride aqueous solution and dried (anhydrous sodium sulfate), and then the solvent was distilled under reduced pressure. The obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:5)] to obtain the title compound (117.0 mg, 90%).

reactant | 3-benzyloxy-2-(4-methoxybenzyl)-5-trifluoromethylthiophene | 0.45 mmol, 170.5 mg | C(C1=CC=CC=C1)OC1=C(SC(=C1)C(F)(F)F)CC1=CC=C(C=C1)OC | C20H17F3O2S
reactant | water | O | H2O
solvent | dichloromethane | 4.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 0.47 mmol, 0.47 mL | ClCCl | CH2Cl2
product | 2-(4-Methoxybenzyl)-5-trifluoromethyl-thiophen-3-ol | 117.0 mg, 90% | COC1=CC=C(CC=2SC(=CC2O)C(F)(F)F)C=C1 | C13H11F3O2S
